US08202873B2
1-[3-(4-Fluorophenyl)-pyridin-2-yl]-piperazine
Dissolve 2-bromo-3-(4-fluorophenyl)-pyridine (4.4 g, 17.5 mmol) in toluene (185 mL) and add piperazine (4.5 g, 52.4 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.8 g, 0.873 mmol), sodium-t-butoxide (2.35 g, 24.4 mmol) and racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.63 g, 2.62 mmol). Reflux the mixture for 18 hr.s, then cool to room temperature and filter through Celite®. Dilute the mixture with ethyl acetate and wash with saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 15:85 2 M ammonia in methanol:DCM) to give the title preparation as a yellow solid (3.9 g, 87%). MS (APCI): m/z=258 [M+H]+.

reactant | 2-bromo-3-(4-fluorophenyl)-pyridine | 17.5 mmol, 4.4 g | BrC1=NC=CC=C1C1=CC=C(C=C1)F | C11H7BrFN
reactant | piperazine | 52.4 mmol, 4.5 g | N1CCNCC1 | C4H10N2
reactant | sodium-t-butoxide | 24.4 mmol, 2.35 g | CC(C)([O-])C.[Na+]
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 2.62 mmol, 1.63 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 185 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.873 mmol, 0.8 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[3-(4-Fluorophenyl)-pyridin-2-yl]-piperazine | FC1=CC=C(C=C1)C=1C(=NC=CC1)N1CCNCC1 | C15H16FN3
